US07816397B2
Methyl 2-(4-hydroxybut-1-ynyl)benzoate
50 ml (0.36 M) of methyl 2-bromobenzoate, 930 mg (3.56 mM) of triphenylphosphine and 316 mg (1.78 mM) of PdCl2 are added to 1200 ml of diethylamine in a 2000 ml reactor. After stirring at room temperature for 5 minutes, 27 ml (0.36 M) of 3-butyn-1-ol and 680 mg (3.56 mM) of CuI (1) are added. The reaction medium is then stirred at 20° C. for 120 hours, the solvent is then evaporated off and the residue obtained is then purified by chromatography on silica, using dichloromethane as eluent. After evaporation, 46.7 g of a brown oil are thus obtained (64% yield).

reactant | methyl 2-bromobenzoate | 0.36 M, 50 ml | BrC1=C(C(=O)OC)C=CC=C1 | C8H7BrO2
reactant | triphenylphosphine | 3.56 mM, 930 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-butyn-1-ol | 0.36 M, 27 ml | C(CC#C)O | C4H6O
catalyst | PdCl2 | 1.78 mM, 316 mg | Cl[Pd]Cl
catalyst | CuI | 3.56 mM, 680 mg | [Cu]I
solvent | diethylamine | 1200 ml | C(C)NCC | C4H11N
product | Methyl 2-(4-hydroxybut-1-ynyl)benzoate | 64% yield | OCCC#CC1=C(C(=O)OC)C=CC=C1 | C12H12O3
